US04939069
A suspension was prepared by mixing 48.6 g of 4-nitronaphthalene dicarboxylic anhydride in 1,000 ml of dimethylformamide, to which 38.0 g of 2-aminobenzenethiol was added dropwise at room temperature over 30 minutes. After the completion of addition, 30 ml of amyl nitrite was added with stirring over 30 minutes and mixed for another 45 minutes. After cooling to room temperature, it was recrystallized with dimethylformamide to obtain a crystal of benzothioxanthene-3,4-dicarboxylic anhydride. The obtained crystal was reacted with p-dimethylaminophenylacetic acid and potassium acetate to obtain a reaction product. Then, 45.2 g of the reaction product was dissolved in 200 ml of dimethylformamide and 8.4 g of anhydrous potassium carbonate was added, followed by heating to reflux for 30 minutes. Produced water was removed and the resultant mixture was cooled to 60° C. before 25.2 g of diethyl sulfate was added for 2 hours and mixed at 60° C. for 2 hours. After cooling, methanol was added to the reaction solution and the precipitated solid was filtered and dried to obtain a sensitizer (a-1) shown in Table 1.

reactant | 4-nitronaphthalene dicarboxylic anhydride | 48.6 g | [N+](=O)([O-])C=1C=C2C(=C3C=CC=CC13)C(=O)OC2=O | C12H5NO5
reactant | 2-aminobenzenethiol | 38.0 g | NC1=C(C=CC=C1)S | C6H7NS
reactant | amyl nitrite | 30 ml | N(=O)OCCCCC | C5H11NO2
solvent | dimethylformamide | 1,000 ml | CN(C=O)C | C3H7NO
product | benzothioxanthene-3,4-dicarboxylic anhydride | C1=CC2=C(C=3C=CC=4SC=5C=CC=CC5CC4C31)C(=O)OC2=O | C19H10O3S
